US09102671B2
A 5 L four-necked flask equipped with an overhead stirrer, thermocouple and a condenser was charged with 2-(2,4-dinitrophenoxy)isoindoline-1,3-dione (I-36) (96 g, 291.6 mmol) and DCM (2 L). The stirred solution was cooled to 0° C. and a solution of hydrazine hydrate (36.46 g, 729 mol) in MeOH (300 mL) was added at 0° C. The reaction mixture rapidly became bright yellow and a precipitate formed. The suspension was stirred at 0° C. for 2 hours. 0.5 N HCl (2 L) was added at 0° C. and stirred for 30 minutes. The mixture was filtered and washed with DCM (2×200 mL). The organic layer was separated, dried over MgSO4, filtered and the solvent removed to give O-(2,4-dinitrophenyl)hydroxylamine (I-37) as a red-orange solid. 1H NMR (400 MHz, CDCl3) δ 8.82 (d, 1 H), 8.44 (dd, 1 H), 8.07 (d, 1 H), 6.42 (sbr, 2 H).

reactant | 2-(2,4-dinitrophenoxy)isoindoline-1,3-dione | 291.6 mmol, 96 g | [N+](=O)([O-])C1=C(ON2C(C3=CC=CC=C3C2=O)=O)C=CC(=C1)[N+](=O)[O-] | C14H7N3O7
reactant | DCM | 2 L | C(Cl)Cl | CH2Cl2
reactant | hydrazine hydrate | 729 mol, 36.46 g | O.NN
reactant | HCl | 0.5 N, 2 L | Cl | ClH
solvent | MeOH | 300 mL | CO | CH4O
product | O-(2,4-dinitrophenyl)hydroxylamine | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])ON | C6H5N3O5
